US07462619B2
2-Chloro4,6-dimethoxypyrimdine (500 mg, 2.9 mmol), PdCl2(PPh3)2 (200 mg, 0.28 mmol), CuI (160 mg, 0.84 mmol), triethylamne (4.8 mL, 34 mmol), and n-Bu4NI (3.2 g, 8.7 mmol) were combined in DMF (24 mL). The mixture was cooled in an ice bath and then phenylacetylene (1.25 mL, 11.4 mmol) was added. The reaction mixture was allowed to warm to ambient temperature. After 2.5 h at ambient temperature the reaction mixture was heated to 45-50° C. After 2 h, additional phenylacetylene (1.0 mL, 9.1 mmol) was added. After an additional 17 h stirring at 45-50° C., the reaction mixture was filtered through a pad of Celite.™., and the filter pad was washed thoroughly with ethyl acetate. The combined filtrates were washed with brine (4.times.20 mL), dried over MgSO4, filtered and concentrated in vacuo. The resulting black oil was purified by column chromatography eluting with hexane, 90:10, then 85:15 hexane:ethyl acetate to afford product contaminated with an impurity. Careful column chromatography of this impure material eluting with hexane then 90:10 hexane:ethyl acetate afforded 4,6-dimethoxy-2-(phenylethynyl)pyrimdine (320 mg, 46% yield) as a yellow solid. This material was carried on to the salt formation without further purification.

reactant | 2-Chloro4,6-dimethoxypyrimdine | 2.9 mmol, 500 mg | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | phenylacetylene | 11.4 mmol, 1.25 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | phenylacetylene | 9.1 mmol, 1.0 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | n-Bu4NI | 8.7 mmol, 3.2 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.28 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.84 mmol, 160 mg | [Cu]I
product | 4,6-dimethoxy-2-(phenylethynyl)pyrimdine | 320 mg, 46% yield | COC1=NC(=NC(=C1)OC)C#CC1=CC=CC=C1 | C14H12N2O2
